US07790290B2
5-1. Synthesis of Mono-n-butylphthalic Acid
148.2 g of anhydrous phthalic acid and 1.05 times the molar equivalent 77.8 g of n-butyl alcohol were added to a 500 ml glass round-bottomed flask equipped with stirring blades, thermometer and Dimroth condenser, heated while slowly stirring, and after the generated heat at about 90° C. wore off, raised to a temperature of 130° C., which was maintained for 2 hours. The mixture was subsequently cooled to 60° C. The acid value (number of mg of KOH necessary to neutralize 1 g of a sample) of the reaction solution was 253.8. Since the acid value for the case where the reaction is 100% complete is 248.4, the reaction rate was computed to be 98%.

reactant | phthalic acid | 148.2 g | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | KOH | [OH-].[K+]
solvent | n-butyl alcohol | 77.8 g | C(CCC)O | C4H10O
product | Mono-n-butylphthalic Acid | C(CCC)C1=C(C(C(=O)O)=CC=C1)C(=O)O | C12H14O4
